US07960369B2
methyl 3-(4-((4-(2-methylphenoxy)benzyl)oxy)phenyl)propanoate
The title compound was synthesized in the same manner as in Example 277 from methyl 3-(4-hydroxyphenyl)propanoate and [4-(2-methylphenoxy)phenyl]methanol (synthesized in the same manner as in Reference Example 201 from o-cresol and 4-bromobenzaldehyde (mixture with side product)) (preparative HPLC (gradient cycle A) was used for purification). colorless crystals (yield 56%).

reactant | methyl 3-(4-hydroxyphenyl)propanoate | OC1=CC=C(C=C1)CCC(=O)OC | C10H12O3
reactant | [4-(2-methylphenoxy)phenyl]methanol | CC1=C(OC2=CC=C(C=C2)CO)C=CC=C1 | C14H14O2
reactant | o-cresol | C1(=CC=CC=C1O)C | C7H8O
reactant | 4-bromobenzaldehyde | BrC1=CC=C(C=O)C=C1 | C7H5BrO
product | methyl 3-(4-((4-(2-methylphenoxy)benzyl)oxy)phenyl)propanoate | CC1=C(OC2=CC=C(COC3=CC=C(C=C3)CCC(=O)OC)C=C2)C=CC=C1 | C24H24O4
